US04539154
In a manner analogous to that described in Example 1, from 1-methyl-3-(2,6,6-trimethyl-1-cyclohexen-1-yl)allyl-triphenylphosphonium chloride and ethyl 5-formyl-4-methyl-2,4-pentadienoate there is obtained ethyl 4,7-dimethyl-9-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2,4,6,8-nonatetraenoate of melting point 65°-66° C. (from methanol).

reactant | 1-methyl-3-(2,6,6-trimethyl-1-cyclohexen-1-yl)allyl-triphenylphosphonium chloride | [Cl-].CC(C=CC1=C(CCCC1(C)C)C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | ethyl 5-formyl-4-methyl-2,4-pentadienoate | C(=O)C=C(C=CC(=O)OCC)C | C9H12O3
solvent | methanol | CO | CH4O
product | ethyl 4,7-dimethyl-9-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2,4,6,8-nonatetraenoate | CC(C=CC(=O)OCC)=CC=C(C=CC1=C(CCCC1(C)C)C)C | C22H32O2
